US07799822B2
A suspension of (S)-4-(3-(indolin-1-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)-benzenesulfonamide (10 mg, 0.023 mmol) and activated MnO2 (20 mg, 0.23 mmol) in CH2Cl2 (1.0 mL) was heated to 50° C. for 20 h. After cooling to RT, the reaction mixture was filtered through a syringe filter, concentrated and dissolved in DMSO/MeOH (1:1, 0.8 mL). Purification via reverse phase HPLC using 10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA) gave (S)-4-(3-(1H-Indol-1-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide. 1H NMR (400 MHz, DMSO-d6) δ 7.84 (d, J=2.1 Hz, 2H), 7.82 (d, J=3.0 Hz, 2H), 7.47 (d, J=7.9 Hz, 1H), 7.29 (d, J=7.9 Hz, 1H), 7.19 (d, J=3.3 Hz, 1H), 7.08-7.03 (m, 1H), 7.01-6.94 (m, 2H), 6.62 (d, J=4.7 Hz, 1H), 6.44 (d, J=3.2 Hz, 1H), 5.51 (dd, J=8.9, 10.9 Hz, 1H), 4.02-3.98 (m, 2H), 2.72-2.68 (m, 1H), 2.49-2.40 (m, 1H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=439.2; tR=2.99 min.

reactant | (S)-4-(3-(indolin-1-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)-benzenesulfonamide | 0.023 mmol, 10 mg | N1(CCC2=CC=CC=C12)[C@@H]1C(N(CC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)=O | C21H20N4O3S2
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 0.23 mmol, 20 mg | O=[Mn]=O
product | (S)-4-(3-(1H-Indol-1-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide | N1(C=CC2=CC=CC=C12)[C@@H]1C(N(CC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)=O | C21H18N4O3S2
